US06541471B1
Step b: [2-(Benzyloxy)phenyl]acetaldehyde
0.104 mol of hydroxy-1-oxo-benzo[d][1,2]iodoxol-3-one is added to 0.08 mol of [2-(2-benzyloxy)phenyl]ethanol in 500 ml of tetrahydrofuran. The reaction mixture is heated at reflux for 2 hours and then cooled. The precipitate is filtered off and the filtrate is evaporated.

reactant | hydroxy-1-oxo-benzo[d][1,2]iodoxol-3-one | 0.104 mol | OC1=CC=CC2=C1C(O[IH]2=O)=O | C7H5IO4
reactant | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | [2-(Benzyloxy)phenyl]acetaldehyde | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CC=O | C15H14O2
